US07777038B2
4.16 g of 1-tert-butoxycarbonylmethyl-8-methoxy-2-oxo-1,2,3,4-tetrahydroquinolin-5-carboxaldehyde and 1.66 g of 2,4-thiazolidinedione (1.00 eq.) were suspended in 40 ml of toluene, and two drops of acetic acid and two drops of piperidine were added, followed by heating and refluxing for 13 hours using a Dean Stark trap. After cooling, crystals were separated by filtration and washed with toluene. The crystals obtained were suspended in 3.15 g of silica gel, 2.09 g of dihydropyridine, and 60 ml of toluene, followed by heating and refluxing overnight. 3.15 g of silica gel was added, the solvent was distilled off under reduced pressure, and the residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=2:1), and recrystallized from ethyl acetate-hexane, giving 2.13 g (38% yield) of 5-(1-carboxymethyl-8-methoxy-2-oxo-1,2,3,4-tetrahydroquinolin-5-ylmethyl)thiazolidine-2,4-dione as a white powder.

reactant | 1-tert-butoxycarbonylmethyl-8-methoxy-2-oxo-1,2,3,4-tetrahydroquinolin-5-carboxaldehyde | 4.16 g | C(C)(C)(C)OC(=O)CN1C(CCC=2C(=CC=C(C12)OC)C=O)=O | C17H21NO5
reactant | 2,4-thiazolidinedione | 1.66 g, 1.00 eq. | S1C(NC(C1)=O)=O | C3H3NO2S
reactant | dihydropyridine | 2.09 g | N1CC=CC=C1 | C5H7N
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
catalyst | acetic acid | two drops | C(C)(=O)O | C2H4O2
catalyst | piperidine | two drops | N1CCCCC1 | C5H11N
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
product | 5-(1-carboxymethyl-8-methoxy-2-oxo-1,2,3,4-tetrahydroquinolin-5-ylmethyl)thiazolidine-2,4-dione | 2.13 g, 38% yield | C(=O)(O)CN1C(CCC2=C(C=CC(=C12)OC)CC1C(NC(S1)=O)=O)=O | C16H16N2O6S
